US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 0.2 g of 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine and 0.2 g of 1-(6-chlorobenzothiazol-2-yl)piperazine to give 0.04 g of 6-acetyl-3-(2-(4-(6-chlorobenzothiazol-2-yl)piperazin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 180° C. (decomposition) as an oxalate thereof.

reactant | 6-acetyl-3-(2-chloroethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.2 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCCl | C12H16ClNOS
reactant | 1-(6-chlorobenzothiazol-2-yl)piperazine | 0.2 g | ClC1=CC2=C(N=C(S2)N2CCNCC2)C=C1 | C11H12ClN3S
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 6-acetyl-3-(2-(4-(6-chlorobenzothiazol-2-yl)piperazin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 0.04 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCN(CC2)C=2SC1=C(N2)C=CC(=C1)Cl | C23H27ClN4OS2
